US05008410
Reaction and after-treatment were carried out in the same manner as in Example 16 except that an equimolar amount of furfural was used in place of 5-methylfurfural, and that cetyltrimethylammonium chloride and tetrahydrofuran were used in place of tetrabutylammonium bromide and toluene, respectively, in the same weights as those of the latter, to obtain 44.0 g of the fraction of 2-(1-hydroxy-3-butynyl)furan (content, 99.4%) (yield, 80.3%).

reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | cetyltrimethylammonium chloride | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(1-hydroxy-3-butynyl)furan | OC(CC#C)C=1OC=CC1 | C8H8O2
